US07745484B2
Step 2: (4S,5S)-tert-butyl 4-((2-(tert-butyldimethylsilyl)-5-propylthiazol-4-yl)methyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 4-((2-(tert-butyldimethylsilyl)thiazol-4-yl)methyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate (0.150 g, 0.269 mmol) in THF (3 mL) was cooled to −78° C. when N-BUTYLLITHIUM (2.5 M in hexanes) (0.1 19 ml, 0.296 mmol) was added dropwise. The solution was warmed to −50° C. for 40 minutes and then cooled to −78° C. 1-Iodopropane (0.0549 g, 0.323 mmol) was added dropwise and the solution was allowed to slowly warm to −50° C. and stirred for 1 hr. The reaction was quenched with saturated ammonium chloride. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine and dried over sodium sulfate to afford the title compound, which was used without further purification for the next step.

reactant | (4S,5S)-Tert-butyl 4-((2-(tert-butyldimethylsilyl)thiazol-4-yl)methyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.269 mmol, 0.150 g | [Si](C)(C)(C(C)(C)C)C=1SC=C(N1)C[C@@H]1N(C(O[C@@H]1CO[Si](C)(C)C(C)(C)C)(C)C)C(=O)OC(C)(C)C | C27H52N2O4SSi2
reactant | N-BUTYLLITHIUM | 0.296 mmol, 2.5 M, 19 ml | [Li+].CCC[CH2-]
reactant | 1-Iodopropane | 0.323 mmol, 0.0549 g | ICCC | C3H7I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 4-((2-(tert-butyldimethylsilyl)-5-propylthiazol-4-yl)methyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate | [Si](C)(C)(C(C)(C)C)C=1SC(=C(N1)C[C@@H]1N(C(O[C@@H]1CO[Si](C)(C)C(C)(C)C)(C)C)C(=O)OC(C)(C)C)CCC | C30H58N2O4SSi2
